Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([O:9][H:10])[O:11][H:12].[H:6],4.1276543216500015
[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.62049818573
[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6][O:7][H:8].[H:1][C:2][O:3][C:4]([H:5])[C:9]([H:10])([H:11])[H:12],3.1522856587700003
[C:6]([H:7])[H:8].[H:1][C:2]=[C:3]([C:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-8.09164973097
[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],-4.62202461565
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])[O:7][C:8]([H:9])[H:10].[H:6],2.94814180951
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],0.888598209681
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][H:9].[O:1]=[C:2][C:10]([H:11])([H:12])[H:13],5.16707938186
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13],3.70511320893
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[O:1]=[C:2]1[C:3][O:4][C:5]([H:6])([H:7])[C:8]1[H:9],-3.02737088213
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.5128800860800005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4],3.80649115072
[C:1]#[C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],-1.54224034299
[H:1][C:2]([H:3])([H:4])[C:5][C:14]([H:15])([H:16])[H:17].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.37971673188
[C:2](#[C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9],-3.52445096203
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12].[H:8],5.14301956809
[C:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[C:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])[H:8],3.4993123248400004
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[C:11]([H:12])([H:13])[H:14],3.89647911574
[C:4]([H:5])=[C:6]([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13],-7.28342830099
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1]=[O:2].[C:3]([H:4])[C:5]([H:6])=[C:7][H:8],-1.10323259762
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]1([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:15]([C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])([H:16])[H:17],-0.0753191062695
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],5.84011003974
[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3][O:4][C:5]#[C:6][H:7].[H:8],2.45685938102
[H:1][O:2][C:3][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.3920208475
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.22690011477
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2],7.62732929019
[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.27210553
[C:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.32798564194
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.3198061259900005
